US08106043B2
4-(2-(Piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine:
A mixture of 7-nitro-4-(2-(piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine (0.9 g, 2.93 mmol) in methanol (10 mL) under an argon atmosphere was treated first with hydrazine hydrate (1.424 mL, 29.3 mmol) and then with Raney-Nickel (˜0.172 g, 2.93 mmol). The reaction was transferred to oil bath pre-heated to 65° C. After one hour, the reaction mixture was poured over a pad of Celite. The pad of Celite was then rinsed with methanol (25 mL). The purple filtrate was concentrated and subjected to a short column on silica gel (1:9 (2M NH3 in MeOH):CH2Cl2). The fractions were concentrated, and the residue was carried on to the next step. 1H-NMR (DMSO-d6) δ 6.49 (d, J=8.7 Hz, 1H), 6.26-6.23 (m, 2H), 4.41 (s, 2H), 3.38-3.35 (m, 2H), 3.20 (t, J=7.2 Hz, 2H), 2.98-2.94 (m, 2H), 2.40-2.34 (m, 6H), 1.50-1.46 (m, 4H), 1.38-1.36 (m, 2H); ESI-MS (m/z, %): 278 (MH+, 100).

reactant | 7-nitro-4-(2-(piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazine | 2.93 mmol, 0.9 g | [N+](=O)([O-])C=1C=CC2=C(SCCN2CCN2CCCCC2)C1 | C15H21N3O2S
reactant | hydrazine hydrate | 29.3 mmol, 1.424 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney-Nickel | 2.93 mmol, ˜0.172 g | [Ni] | Ni
product | 4-(2-(Piperidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-amine | N1(CCCCC1)CCN1C2=C(SCC1)C=C(C=C2)N | C15H23N3S
